US05665718
3.76 g (10 mmol) of (S)-8-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one were stirred at room temperature overnight with 2.19 g (30 mmol) of diethylamine and 30 ml of N,N-dimethylformamide. By evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with methylene chloride/methanol 19/1 there were obtained 4.5 g (96%) of (S)-8-chloro-1-(5-diethylamino-methyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]-imidazo[1,5-a][1,4]benzodiazepin-9-one, which was converted into the hydrochloride of m.p. 218°-220°.

reactant | (S)-8-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 10 mmol, 3.76 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)CCl)CC1)=O | C16H11Cl2N5O2
reactant | diethylamine | 30 mmol, 2.19 g | C(C)NCC | C4H11N
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (S)-8-chloro-1-(5-diethylamino-methyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]-imidazo[1,5-a][1,4]benzodiazepin-9-one | 4.5 g, 96% | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3N(OC(=N3)N(CC)CC)C)CC1)=O | C20H23ClN6O2
